US07994209B2
(S)-3-[(R)-1-(2,4,5-Trifluorophenoxy)pentyl]pyrrolidine
(S)-3-((R)-1-Hydroxypentyl)pyrrolidine-1-carboxylic acid t-butyl ester (40.0 mg, 155 μmmol) was dissolved in DMF (100 mL, 12.9 mmol). While stirring, 60% sodium hydride in oil (0.4:0.6, sodium hydride:mineral oil, 18.6 mg, 311 μmmol) was slowly added, and the mixture was stirred for 15 minutes. 1,2,4,5-Tetrafluorobenzene (52.1 μL, 466 μmmol) was added. The mixture was then heated at 90° C. for 3 hours. The reaction was quenched with MeOH (1 mL), and the solvent was removed under reduced pressure. 1.25M HCl in EtOH (2.0 mL, 2.5 mmol) was added, and the mixture was stirred overnight. The product was concentrated and purified by preparative HPLC to yield the title compound as a mono-TFA salt (19.2 mg, 97% purity). MS m/z: [M+H]+ calcd for C15H20F3NO, 288.15; found 288.2.

reactant | (S)-3-((R)-1-Hydroxypentyl)pyrrolidine-1-carboxylic acid t-butyl ester | 40.0 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@@H](CCCC)O | C14H27NO3
reactant | DMF | 12.9 mmol, 100 mL | CN(C)C=O | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 1,2,4,5-Tetrafluorobenzene | 52.1 μL | FC1=C(C=C(C(=C1)F)F)F | C6H2F4
reactant | HCl | 1.25M | Cl | ClH
reactant | EtOH | 2.5 mmol, 2.0 mL | CCO | C2H6O
product | (S)-3-[(R)-1-(2,4,5-Trifluorophenoxy)pentyl]pyrrolidine | FC1=C(O[C@H](CCCC)[C@@H]2CNCC2)C=C(C(=C1)F)F | C15H20F3NO
